US04031088
4-[3-Amino-2,4,6-triiodo-5-(N-methylacetamido)benzoyl]morpholine [C; R° is CH3CON(CH3), Q is H, Z is morpholino] was prepared from the acid chloride of 3-amino-5-(N-methylacetamido)-2,4,6-triiodobenzoic acid and morpholine according to the procedure described in Example 45, part (a). The product obtained was used directly in the procedure described in part (b) below.

reactant | 3-amino-5-(N-methylacetamido)-2,4,6-triiodobenzoic acid | NC=1C(=C(C(=O)O)C(=C(C1I)N(C(C)=O)C)I)I | C10H9I3N2O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-[3-Amino-2,4,6-triiodo-5-(N-methylacetamido)benzoyl]morpholine | NC=1C(=C(C(=O)N2CCOCC2)C(=C(C1I)N(C(C)=O)C)I)I | C14H16I3N3O3
